US07268250B2
Production of (R)-3-[bis(methoxycarbonyl)methyl]cycloheptanone
Under an atmosphere of argon, 11.0 mg (0.02 mmol, S/C=100) of Ru[(S,S)-Msdpen] (hexamethylbenzene), 111 μL (1.0 mmol) of 2-cycloheptenone, 114 μL (1.0 mmol) of dimethyl malonate, and 1 mL of 2-methyl-2-propanol were placed in a 20 mL Schlenk tube and stirred at 30° C. for 72 hours. This solution was purified by flash column chromatography (hexane/acetone=90/10, SiO2) to give 181 mg (75% yield) of the title compound. The optical rotation [α]D27 was +45.2 (c 1.76, CHCl3). This was reacted with (2R,3R)-butanediol in the presence of a catalytic amount of p-toluenesulfonic acid so as to be converted into a ketal derivative. The 13C NMR spectrum of this derivative was measured, and the optical purity was determined from the ratio of the integrals of the peaks of two diastereomers, with the result that it was >99% ee.

reactant | 2-cycloheptenone | 1.0 mmol, 111 μL | C1(C=CCCCC1)=O | C7H10O
reactant | dimethyl malonate | 1.0 mmol, 114 μL | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | 2-methyl-2-propanol | 1 mL | CC(C)(C)O | C4H10O
product | (R)-3-[bis(methoxycarbonyl)methyl]cycloheptanone | 181 mg, 75% yield | COC(=O)C([C@H]1CC(CCCC1)=O)C(=O)OC | C12H18O5
